US05578627
To 20 ml of an ethyl acetate solution of 2 g of 3-(2-aminopentyloxy)-1,2-benzoisoxazole is added 20 ml of a dioxane solution (2.2N) of hydrogen chloride, and the crystals precipitated are collected by filtration to obtain 1.05 g of colorless, crystalline 3-(2-aminopentyloxy)-1,2-benzoisoxazole hydrochloride having a melting point of 205.8°-206.5° C.

reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | 3-(2-aminopentyloxy)-1,2-benzoisoxazole | 2 g | NC(COC1=NOC2=C1C=CC=C2)CCC | C12H16N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 2.2N, 20 ml | O1CCOCC1 | C4H8O2
product | 3-(2-aminopentyloxy)-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=CC=C2)CCC | InChI=1S/C12H16N2O2.ClH/c1-2-5-9(13)8-15-12-10-6-3-4-7-11(10)16-14-12;/h3-4,6-7,9H,2,5,8,13H2,1H3;1H
